US08486967B2
c) 2-Chloro-4-(4-chloro-benzyl)-6-(1-methyl-1-trimethylsilanyloxy-ethyl)-pyrimidine
To a solution of 2,4-dichloro-6-(1-methyl-1-trimethylsilanyloxy-ethyl)-pyrimidine (5.02 g, 18.0 mmol) in THF (60 mL) was added Pd(TPP)4 (0.83 g, 0.72 mmol). The solution was flushed with argon, and subsequently, a 0.5 M solution of 4-chloro-benzylzinc chloride in tetrahydrofuran (36 mL, 18.0 mmol) was added at 20° C. over 1-3 minutes. The reaction mixture was heated to 50° C. for 3 h under an atmosphere of argon. After cooling the mixture to 20° C., saturated aqueous ammonium chloride solution (30 mL) was added to quench the reaction. The mixture was extracted with ethyl acetate (2×30 mL) and the organic layers were washed with brine (2×30 mL), dried over sodium sulfate, and evaporated under reduced pressure. The residual oil was purified by chromatography on silica gel using heptane/0-30% ethyl acetate as eluent to afford the title compound (4.72 g, 71%) as a colorless oil.

reactant | 2,4-dichloro-6-(1-methyl-1-trimethylsilanyloxy-ethyl)-pyrimidine | 18.0 mmol, 5.02 g | ClC1=NC(=CC(=N1)Cl)C(C)(O[Si](C)(C)C)C | C10H16Cl2N2OSi
reactant | 4-chloro-benzylzinc chloride | [Cl-].ClC1=CC=C(C[Zn+])C=C1
reactant | ammonium chloride | 30 mL | [Cl-].[NH4+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 18.0 mmol, 36 mL | O1CCCC1 | C4H8O
product | 2-Chloro-4-(4-chloro-benzyl)-6-(1-methyl-1-trimethylsilanyloxy-ethyl)-pyrimidine | 4.72 g, 71% | ClC1=NC(=CC(=N1)CC1=CC=C(C=C1)Cl)C(C)(O[Si](C)(C)C)C | C17H22Cl2N2OSi
